US05212318
Step (a): Preparation of N-Heptyl-5-hydroxypentanamide
Delta valerolactone (40 g, 0.4 mole) was added dropwise with stirring to n-heptylamine (50.6 g, 0.4 mole) so that the temperature of the mixture was maintained at 85° to 90° C. Heat was applied and the temperature raised to 110° C. over 20 minutes after which the temperature was maintained at 110° to 115° C. for a further 6 hours (after 3 hours N.M.R. indicated that the reaction was 90 to 95% complete). Toluene (200 ml, 173 g) was added and the solution cooled to 0° C. with stirring. After 1 hour at 0° C., the solid was collected and washed successively with ice cold toluene (50 ml, 43 g) and n-heptane (50 ml, 34 g). The material was dried at room temperature overnight to give the product. (81.6 g (95% yield) m.p. 53° to 54° C.).

reactant | Delta valerolactone | 0.4 mole, 40 g | C1(CCCCO1)=O | C5H8O2
reactant | n-heptylamine | 0.4 mole, 50.6 g | C(CCCCCC)N | C7H17N
solvent | Toluene | 200 ml, 173 g | C1(=CC=CC=C1)C | C7H8
product | N-Heptyl-5-hydroxypentanamide | 95% yield | C(CCCCCC)NC(CCCCO)=O | C12H25NO2
